US04613463
17α-hydroxy-20-phenoxy-pregna-4,9(11), 20-trien-3-one (20.0 grams, 49.5 mmoles) is slurried in a mixture of pH 8 potassium phosphate buffer (100 ml, 0.1M PO4 ≡) and water (100 ml). Acetone (20 ml) methylene chloride (200 ml) and polyethylene glycol (3.0 g avg. MW=300) are added and the two phase mixture heated to 35° C. and adjusted to pH 8.5 with potassium hydroxide. OXONE® (2KHSO5.KHSO4.K2SO4), 30 g, 48.8 mmoles) is dissolved in water (110 ml) containing (10 ml of a 5% by weight solution of sodium edetate) and the (Na4EDTA) solution added dropwise over 1 hour with vigorous agitation while maintaining the pH at 8.3 to 8.5 When the reaction is complete, the phases are separated hot and the aqueous phase extracted twice with 50 ml of methylene chloride. The combined organics are washed twice with 100 ml of aqueous 5% sodium hydroxide and clarified thru through solka flok (10 g). The solvent is removed by distillation and replaced with tetrahydrofuran to a final volume of 150 ml. Water (3 ml) containing fluoboric acid (0.3 ml of 50%) is added to hydrolyze the epoxide at 45-50° C. After 1 hour, acetic anhydride (30 ml, 318 mmoles), triethylamine (0.35 ml, 2.63 mmoles) and N,N-dimethylaminopyridine (0.1 g, 0.47 mmoles) are added at 55° C. to acetylate the 21-alcohol. When complete, tetrahydrofuran is replaced with acetone by atmospheric distillation to a final volume of 100 ml. 17α-hydroxy-21-acetoxypregna-4,9(11)-diene-3,20-dione was isolated by filtration and drying under vacuum at 60° to yield 16.7 g.

reactant | 17α-hydroxy-20-phenoxy-pregna-4,9(11), 20-trien-3-one | 49.5 mmoles, 20.0 grams | O[C@]1(C(=C)OC2=CC=CC=C2)CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O | C27H32O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | sodium edetate | C(N(CC(=O)[O-])CC(=O)[O-])CN(CC(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+].[Na+]
reactant | Na4EDTA | C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+].[Na+]
reactant | acetic anhydride | 318 mmoles, 30 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 2.63 mmoles, 0.35 ml | C(C)N(CC)CC | C6H15N
solvent | potassium phosphate | 0.1M, 100 ml, pH 8 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | water | 100 ml | O | H2O
solvent | water | 110 ml | O | H2O
solvent | Acetone | 20 ml | CC(=O)C | C3H6O
product | 17α-hydroxy-21-acetoxypregna-4,9(11)-diene-3,20-dione | O[C@]1(C(COC(C)=O)=O)CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O | C23H30O5
